US05869492
A solution of m-chloroperoxybenzoic acid (55% purity; 81 g) in dichloromethane (1400 ml) was added dropwise over 2.5 hours to a stirred, ice-cold solution of the crude 1-(4-chlorophenylthio)-4-phenoxybut-2-yne (74.5 g) in dichloromethane (600 ml), then the mixture was stirred at ambient temperature for 18 hours and filtered. The filtrate was washed with 5% aqueous sodium carbonate solution (3×750 ml) and water (3×500 ml) then dried (Na2SO4), and the solvent removed in vacuo. The residue was dissolved in hot dichloromethane (40 ml), then petroleum ether (b.p. 60°-80° C.) (75 ml) was added, and the mixture was triturated to give a sticky solid which was collected by filtration, triturated with hot ether (500 ml), collected by filtration, and dried in vacuo to give 1-(4-chlorophenylsulphinyl)-4-phenoxybut-2-yne as a solid (21.73 g), m.p. 102°-103° C.

reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-(4-chlorophenylthio)-4-phenoxybut-2-yne | 74.5 g | ClC1=CC=C(C=C1)SCC#CCOC1=CC=CC=C1 | C16H13ClOS
solvent | dichloromethane | 1400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 1-(4-chlorophenylsulphinyl)-4-phenoxybut-2-yne | 21.73 g | ClC1=CC=C(C=C1)S(=O)CC#CCOC1=CC=CC=C1 | C16H13ClO2S
